US06683096B2
Preparation of 2-(2-{4-[1-(3-methyl-butyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid
This compound was prepared following the procedure described in Example 138 (part B) starting with 3 g (7.9 mmol) of methyl 2-{2-[4-(1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoate, 0.54 g (13.5 mmol) of NaH in 60% of mineral oil and 1.67 g (11.08 mmol) of 3-methylbutyl iodide. The crude mixture was hydrolised following the procedure described in Example 138 (part C) and purified by chromatography over silica gel affording 2.7 g (77% of yield) of the desired product. Melting point=150-151° C.

reactant | methyl 2-{2-[4-(1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoate | 7.9 mmol, 3 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)OC)C=CC=C1 | C23H26N2O3
reactant | NaH | 13.5 mmol, 0.54 g | [H-].[Na+]
reactant | 3-methylbutyl iodide | 11.08 mmol, 1.67 g | CC(CCI)C | C5H11I
product | 2-(2-{4-[1-(3-methyl-butyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid | CC(CCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1)C | C27H34N2O3
